US06982348B2
1) 3-methyl-3-phenylbutanoic acid
While stirring powdery magnesium (9.56 g, 393 mmol) and iodine (one crumb) in tetrahydrofuran (10 ml), a solution of 1-chloro-2-methyl-2-phenylpropane (26.53 g, 157.3 mmol) and 1,2-dibromoethane (29.6 g, 157 mmol) in tetrahydrofuran (100 ml) was dropwise added at a rate permitting the reaction solution to gently reflux. After completion of the dropwise addition, the mixture was stirred at 60° C. for 4 hrs. The reaction solution was cooled to −78° C., and pulverized dry ice (50 g) was carefully added. After completion of the dropwise addition, the reaction solution was gradually warmed to room temperature with stirring. The reaction solution was diluted with water, acidified with conc. hydrochloric acid, and extracted twice with ethyl acetate. The solvent of the recovered organic layer was evaporated under reduced pressure. The obtained residue was mixed with sodium hydroxide (6 g) and water (200 ml). The obtained aqueous solution was washed with diethyl ether-hexane, acidified with conc. hydrochloric acid, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to give the objective substance.

reactant | magnesium | 393 mmol, 9.56 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-chloro-2-methyl-2-phenylpropane | 157.3 mmol, 26.53 g | ClCC(C)(C1=CC=CC=C1)C | C10H13Cl
reactant | 1,2-dibromoethane | 157 mmol, 29.6 g | BrCCBr | C2H4Br2
reactant | dry ice | 50 g | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-methyl-3-phenylbutanoic acid | CC(CC(=O)O)(C)C1=CC=CC=C1 | C11H14O2
